US08222417B2
Synthesis of methyl 4-[(2,3-dihydro-4H-1,4-benzoxazin-4-ylcarbonyl)amino]adamantane-1-carboxylate (Compound 35a), (Compound 35b)
To a solution of triphosgene (223 mg) in chloroform (5 ml), a solution of triethylamine (0.31 ml) and 3,4-dihydro-2H-1,4-benzoxazine obtained in Reference Example 14 (203 mg) in chloroform (2 ml) was added under ice cooling and stirred at the same temperature for 10 minutes. To the reaction mixture, methyl 4-aminoadamantane-1-carboxylate obtained in Reference Example 11 (314 mg) and triethylamine (0.31 ml) were then added and stirred under ice cooling for 3 hours. The reaction mixture was warmed to room temperature and further stirred for 16 hours. The reaction mixture was diluted with ethyl acetate, and the organic layer was washed sequentially with water, 1M aqueous hydrochloric acid, saturated aqueous sodium bicarbonate and brine. After drying over anhydrous magnesium sulfate, the desiccant was filtered off and the solvent was distilled off under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluting solvent: n-hexane:ethyl acetate=4:1 to 1:1) to give an isomer mixture of the titled compounds (a mixture of Compounds 35a and 35b, 474 mg) as a light-yellow amorphous substance.

reactant | triphosgene | 223 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 0.31 ml | C(C)N(CC)CC | C6H15N
reactant | 3,4-dihydro-2H-1,4-benzoxazine | O1CCNC2=C1C=CC=C2 | C8H9NO
reactant | methyl 4-aminoadamantane-1-carboxylate | NC1C2CC3(CC(CC1C3)C2)C(=O)OC | C12H19NO2
reactant | triethylamine | 0.31 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-[(2,3-dihydro-4H-1,4-benzoxazin-4-ylcarbonyl)amino]adamantane-1-carboxylate | O1CCN(C2=C1C=CC=C2)C(=O)NC2C1CC3(CC(CC2C3)C1)C(=O)OC | C21H26N2O4
